US08022099B2
a) (3SR,4RS)-1-Benzyl-3-(3,4-dichloro-phenyl)-4-nitro-pyrrolidine
A solution of N-(methoxymethyl)-N-(phenylmethyl)-N-(trimethylsilyl)methylamine (1.96 g, 8.2 mmol) in CH2Cl2 (10 ml) was added drop wise, over a 30 minutes period, to a stirred solution of 1,2-dichloro-4-((E)-2-nitro-vinyl)-benzene (1.0 g, 4.58 mmol) and trifluoroacetic acid (52 mg, 4.45 mmol) in CH2Cl2 (5 ml) at 0° C. The ice bath was removed, and the solution was stirred at 25° C. for an additional 48 h. It was then concentrated and purification by flash chromatography (SiO2, EtOAc/H 1:4) afforded 1.00 g (62%) of the title compound as a colorless oil. ES-MS m/e: 351.4 (M+H+).

reactant | N-(methoxymethyl)-N-(phenylmethyl)-N-(trimethylsilyl)methylamine | 8.2 mmol, 1.96 g | COCN(C[Si](C)(C)C)CC1=CC=CC=C1 | C13H23NOSi
reactant | 1,2-dichloro-4-((E)-2-nitro-vinyl)-benzene | 4.58 mmol, 1.0 g | ClC1=C(C=C(C=C1)\C=C\[N+](=O)[O-])Cl | C8H5Cl2NO2
reactant | trifluoroacetic acid | 4.45 mmol, 52 mg | FC(C(=O)O)(F)F | C2HF3O2
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
product | (3SR,4RS)-1-Benzyl-3-(3,4-dichloro-phenyl)-4-nitro-pyrrolidine | 1.00 g, 62% | C(C1=CC=CC=C1)N1CC(C(C1)[N+](=O)[O-])C1=CC(=C(C=C1)Cl)Cl | C17H16Cl2N2O2
